Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:4]([H:5])([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-0.747856970149
[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10].[H:1][O:2][C:3],4.48100504416
[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2](=[C:3][H:4])[C:15]([H:16])([H:17])[H:18]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.40119615964
[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[O:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],0.45420872517
[C:1].[C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]=[O:10]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]=[O:10],-3.60353636949
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[O:13][H:14],5.30651306698
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[O:10][H:11]>>[C:4]([H:5])=[O:10].[O:1]([C:2]([H:3])=[C:6]=[C:7]([H:8])[H:9])[H:11],0.932324436391
[C:8]([H:9])#[C:10][H:11].[H:1][C:2][O:3][C:4]([H:5])=[C:6][H:7]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10][H:11],-2.27651729136
[C:4]([H:5])([H:6])=[C:7][H:8].[H:1][C:2]#[C:3][C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-3.82846273102
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])[C:5]#[C:6][H:7],4.94753849456
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][O:2][C@@:3]([O:4][C:5]([H:6])([H:7])[H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16],4.63465266799
[C:4](=[C:5]([H:6])[H:7])([H:9])[H:10].[H:1][C:2]([H:3])=[C:8]=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],0.442518397941
[H:1][O:2][C:3]1=[C:4]([H:5])[C@:6]1([H:7])[C:8]([H:9])[H:10]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-0.8880896786
[H:1][C:2]([H:3])[C:4](=[C:5]=[C:6]([H:7])[H:8])[C:12]([C:9]([H:10])[H:11])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]1[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14],-2.68575658436
[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-5.0817892207
[H:1][C:2]([H:3])=[C:4][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-4.85763062112
[C:3]([H:4])([H:5])[O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12],-5.20442923796
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],1.0685851155
[O:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-0.390179586511
[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-5.238888858369999
[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[C:1].[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],5.83949018699
[H:1][C:2][O:3][C:4]#[C:5][H:6].[O:7]=[C:8]([H:9])[H:10]>>[H:1][C:2][O:3][C:4][C:5]([H:6])[O:7][C:8]([H:9])[H:10],1.38826984714
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2],7.230331745650001
[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]=[C:8]([H:9])[H:10]>>[H:10].[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]#[C:8][H:9],2.67824936067
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:18].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17],4.56204487549
[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:8]=[C:9]([H:10])[H:11].[H:7]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-1.7641467247599998
[H:1][C:2]=[C:3]([H:4])[O:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-1.69141095612
[H:1][O:2]/[C:3](=[C:5]\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:4]>>[H:1][O:2][C@:3]([H:4])([C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-1.7066491380200002
